US04737488
N-(D-Galactopyranosyl)tetradecylamine
The preparation is analogous to Example 1, starting from 18 g of galactose and 20 g of tetradecylamine.

reactant | galactose | 18 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | tetradecylamine | 20 g | C(CCCCCCCCCCCCC)N | C14H31N
product | N-(D-Galactopyranosyl)tetradecylamine | C1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CCCCCCCCCCCCCCN | C20H41NO5
